### PR TITLE
Sakai 1.7.5

### PR DESCRIPTION
**Pull request by j-loreaux**

### CODE REVIEW

File: LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 1]
```diff
@@ -0,0 +1,165 @@
...
+    cfcHom_apply_mem_elemental' ha ⟨_, hf.restrict⟩
+
+lemma cfc_mem {S : Type*} [SetLike S A] [SubringClass S A] [SMulMemClass S 𝕜 A]
+    [StarMemClass S A] (s : S) [IsClosed (s : Set A)] (f : 𝕜 → 𝕜) (a : A) (has : a ∈ s) :
+    cfc f a ∈ s :=
+  StarSubalgebra.topologicalClosure_minimal (t := .ofClass s) (by simpa) (by simpa)
+    (cfc_apply_mem_elemental' f a)
+
+-- this should probably be an instance?
+attribute [instance] StarAlgebra.elemental.isClosed
```
Comment (JonBannon) [inline LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:56]: I guess this is a placeholder for putting @[instance] before the definition of `StarAlgebra.elemental.isClosed` in Mathlib later? Or is there some reason to declare this as an instance precisely starting *here*?

File: LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 2]
```diff
@@ -0,0 +1,165 @@
...
+/- The primed versions of these lemmas should replace the originals in Mathlib. -/
+
+
+public section
+
+open Topology
+
+open scoped CStarAlgebra
+
+section Bar
```
Comment (JonBannon) [inline LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
section Range
```

File: LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean [hunk 3]
```diff
@@ -0,0 +1,165 @@
...
+
+lemma range_cfc_nnreal' (a : A) (ha : 0 ≤ a) :
+    Set.range (cfc (R := ℝ≥0) · a) ⊆ {x | x ∈ StarAlgebra.elemental ℝ a ∧ 0 ≤ x} := by
+  grw [range_cfc_nnreal_eq_image_cfc_real' a ha, Set.setOf_and, SetLike.setOf_mem_eq,
+    ← range_cfc_subset ℝ ha.isSelfAdjoint, Set.inter_comm, ← Set.image_preimage_eq_inter_range]
+  exact Set.image_mono fun _ ↦ cfc_nonneg
+
+end Unital
+
+end Bar
```
Comment (JonBannon) [inline LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean]:
```suggestion
end Range
```

File: LeanOA/Ultraweak/Masa.lean [hunk 4]
```diff
@@ -0,0 +1,253 @@
+import LeanOA.ExtremallyDisconnected
+import LeanOA.Masa
+import LeanOA.Ultraweak.LUB
+import Mathlib.Algebra.Order.Monoid.Submonoid -- it makes no sense that this import is necessary
```
Comment (JonBannon) [inline LeanOA/Ultraweak/Masa.lean:6]: Checking some thoughts about the weird import `Mathlib.Algebra.Order.Monoid.Submonoid` that you commented doesn't make sense in `LeanOA.Ultraweak.Masa`. 

I expect that the fact that ` [AddLeftMono s]` seems to require instances like docs#SubmonoidClass.toIsOrderedMonoid and such in the typeclass instantiation chain is not the surprise for you, but if you bypass these by providing the `[AddLeftMono s]` in both `foo` and `bar` then there is strange breakage in that Lean is later using that import to synthesize 
```
OrderIsoClass (↥S ≃⋆ₐ[ℂ] C(↑(characterSpace ℂ ↥S), ℂ)) ↥S C(↑(characterSpace ℂ ↥S), ℂ)
```

Is this right? Or is the earlier need for the import to get `[AddLeftMono s]` also weird?

Comment (JonBannon) [reply LeanOA/Ultraweak/Masa.lean:6]: Maybe this is the reason below for your wanting to lower priority and better target the typeclass inference search? (If this is the case, should I perhaps look at the traces for this and find that looking for `SetLike` instances is what is causing a lot of trouble?)

File: LeanOA/Masa.lean [hunk 5]
```diff
@@ -30,12 +30,11 @@ instance Algebra.instIsMulCommutativeAdjoin {S R A : Type*} [CommSemiring R]
   let := adjoinCommSemiringOfComm R hs.setLike_mul_comm
   ⟨⟨mul_comm⟩⟩
 
-instance NonUnitalAlgebra.instIsMulCommutativeAdjoin {S R A : Type*} [CommSemiring R]
-    [NonUnitalSemiring A] [Module R A] [IsScalarTower R A A] [SMulCommClass R A A]
-    [SetLike S A] [MulMemClass S A] (s : S) [hs : IsMulCommutative s] :
-    IsMulCommutative (adjoin R (s : Set A)) :=
-  let := adjoinNonUnitalCommSemiringOfComm R hs.setLike_mul_comm
-  ⟨⟨mul_comm⟩⟩
+lemma setLike_mul_comm_star {S A : Type*}
```
Comment (JonBannon) [inline LeanOA/Masa.lean:33]: Is the reason for generalizing all of this stuff to `SetLike` so that we have more ready access for substructures without having to deal with subtypes?

**Review by JonBannon — COMMENTED** [review]
Just a bunch of comments, meant to help me understand design-related issues.

File: LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean (hunk 1 above)
Comment (j-loreaux) [reply LeanOA/Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Range.lean:56]: right, it's just for moving to Mathlib later.

File: LeanOA/Ultraweak/Masa.lean (hunk 4 above)
Comment (j-loreaux) [reply LeanOA/Ultraweak/Masa.lean:6]: Don't bother. I'm just very surprised this file wasn't already imported transitively (so surprised that I almost suspect Lean is lying to me about it).

File: LeanOA/Masa.lean (hunk 5 above)
Comment (j-loreaux) [reply LeanOA/Masa.lean:33]: Right, it's just to make life easy and avoid duplication. Note that this lemma you highlighted will work simultaneously for both non-unital and unital commutative star subalgebras.

File: LeanOA/Ultraweak/Masa.lean [hunk 6]
```diff
@@ -0,0 +1,253 @@
...
+open scoped Ultraweak
+
+variable (M P) in
+noncomputable abbrev WStarAlgebra.instCCPO : ConditionallyCompletePartialOrderSup M :=
+  inferInstanceAs (ConditionallyCompletePartialOrderSup σ(M, P))
+
+open WeakDual ContinuousMap
+open scoped ComplexOrder
+
+namespace ContinuousMap
```
Comment (themathqueen) [inline LeanOA/Ultraweak/Masa.lean]: move to `Mathlib/Analysis/RCLike/ContinuousMap`

File: LeanOA/Ultraweak/Masa.lean [hunk 7]
```diff
@@ -0,0 +1,253 @@
...
+
+variable {α : Type*} (𝕜 : Type*) [TopologicalSpace α] [RCLike 𝕜]
+
+/-- `ContinuousMap.realToRCLike` as an order embedding. -/
+def realToRCLikeOrderEmbedding :
```
Comment (themathqueen) [inline LeanOA/Ultraweak/Masa.lean]:
```suggestion
variable (α) in
def realToRCLikeOrderEmbedding :
```

File: LeanOA/Ultraweak/Masa.lean [hunk 8]
```diff
@@ -0,0 +1,253 @@
...
+  realToRCLikeOrderEmbedding 𝕜 |>.le_iff_le
+
+@[simp]
+lemma realToRCLike_lt_realToRCLike_iff {f g : C(α, ℝ)} :
+    realToRCLike 𝕜 f < realToRCLike 𝕜 g ↔ f < g :=
+  realToRCLikeOrderEmbedding 𝕜 |>.lt_iff_lt
+
+end ContinuousMap
+
+section Unitary
```
Comment (themathqueen) [inline LeanOA/Ultraweak/Masa.lean]: `Mathlib/Algebra/Star/Unitary`

File: LeanOA/Ultraweak/Masa.lean [hunk 9]
```diff
@@ -0,0 +1,253 @@
...
+  simp only [Commute.symm_iff (a := x)] at *
+  exact Commute.span_left h
+
+
+end CommuteSpan
+
+section StarMemClass
+
+@[simp]
+lemma Subtype.isSelfAdjoint_iff {S R : Type*} [Star R] [SetLike S R] [StarMemClass S R]
```
Comment (themathqueen) [inline LeanOA/Ultraweak/Masa.lean]: I think `SetLike` is more appropriate than subtype here
```suggestion
lemma SetLike.isSelfAdjoint_iff {S R : Type*} [Star R] [SetLike S R] [StarMemClass S R]
```

File: LeanOA/Ultraweak/Masa.lean [hunk 10]
```diff
@@ -0,0 +1,253 @@
...
+    Commute (u : R) x ↔ u * x * star u = x := by
+  simpa using (Unitary.toUnits u).commute_iff_mul_inv_cancel
+
+lemma commute_unitary_iff_mul_mul_star_of_mem {x u : R} {hu : u ∈ unitary R} :
+    Commute (u : R) x ↔ u * x * star u = x :=
+  commute_unitary_iff_mul_mul_star (u := ⟨u, hu⟩)
+
+end Unitary
+
+section CommuteSpan
```
Comment (themathqueen) [inline LeanOA/Ultraweak/Masa.lean]: move to somewhere in `Mathlib/Algebra` probably?

**Review by themathqueen — COMMENTED** [review]
some comments

File: LeanOA/Mathlib/Algebra/LinearAlgebra/Span/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,29 @@
+module
+
+public import Mathlib.GroupTheory.GroupAction.Ring
```
Comment (themathqueen) [inline LeanOA/Mathlib/Algebra/LinearAlgebra/Span/Defs.lean]: don't think this is needed
```suggestion
```

File: LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean [hunk 12]
```diff
@@ -47,4 +47,39 @@ variable (𝕜) in
...
+variable (𝕜)
+
+/-- `ContinuousMap.realToRCLike` as an order embedding. -/
+def realToRCLikeOrderEmbedding :
+    C(A, ℝ) ↪o C(A, 𝕜) where
+  toFun := realToRCLike 𝕜
+  inj' f g hfg := by ext x; simpa using congr($hfg x)
+  map_rel_iff' := by simp [le_def]
+
+lemma realToRCLike_monotone' : Monotone (realToRCLike (A := A) 𝕜) :=
```
Comment (themathqueen) [inline LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: delete the other `monotone_realToRCLike` and then do
```suggestion
variable (A) in
lemma monotone_realToRCLike : Monotone (realToRCLike (A := A) 𝕜) :=
```
i don't know if it should be `monotone_foo` or `foo_monotone` 🤔

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: I like monotone_foo, actually...but I am not someone I would listen to yet!

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: Dang...this change collides with an earlier result. Plus, the primed name here exists already unprimed in Mathlib, if I'm understanding correctly...What do we do?

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: What??? There is already 

variable (A 𝕜) in
open ComplexOrder in
lemma monotone_realToRCLike : Monotone (realToRCLike (A := A) 𝕜) :=
  fun f g hfg x ↦ by simpa using hfg x

in the file above. What am I missing?

Comment (themathqueen) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: Delete the earlier one!

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: It seems we have the same result twice with different names. I'm keeping the primed one and deleting this one, since the primed one sits among several other existing primed ones that will eventually replace counterparts in Mathlib.

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: Yay! I made the right move, for once! LOL!

Comment (themathqueen) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: This doesn't exist in mathlib though. I don't think primed makes sense here

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: Should we switch it to the other name, or unprime it and keep it named like these others? Probably the latter?

Comment (JonBannon) [reply LeanOA/Mathlib/Analysis/RCLike/ContinuousMap.lean]: I unprimed it, and then fixed breakage in `ExtremallyDisconnected` that used the other version we deleted.
